US06506800B2
Preparation of 1-Chloro-4-[(2E)-2,3-difluoro-1-(2-methoxyethyl)-2-propenyl]benzene
To a stirred solution of 1-chloro-4-[2,3,3-trifluoro-1-(2-methoxyethyl)-2-propenyl]benzene (2.25 g, 8.5 mmol) in tetrahydrofuran (56 ml) at −5° C. was added sodium bis(2-methoxyethoxy)aluminum hydride (RedAl, 6.7 ml of a 65% solution in toluene). The reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction mixture was cooled to −5° C., and water (6.5 ml) was added dropwise with stirring, followed by 10% hydrochloric acid (30 ml). The resulting mixture was stirred for 45 minutes, diluted with water (50 ml) and extracted with methylene chloride (3×50 ml). The combined organic extracts were washed with water, saturated aqueous sodium bicarbonate, and water, dried over anhydrous sodium sulfate and concentrated in vacuo to afford the title compound as a brown oil (1.92 g) which was characterized by IR, 1HNMR and mass spectral analysis and used without further purification.

reactant | 1-chloro-4-[2,3,3-trifluoro-1-(2-methoxyethyl)-2-propenyl]benzene | 8.5 mmol, 2.25 g | ClC1=CC=C(C=C1)C(C(=C(F)F)F)CCOC | C12H12ClF3O
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | tetrahydrofuran | 56 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
solvent | water | 6.5 ml | O | H2O
product | 1-Chloro-4-[(2E)-2,3-difluoro-1-(2-methoxyethyl)-2-propenyl]benzene | 1.92 g | ClC1=CC=C(C=C1)C(/C(=C\F)/F)CCOC | C12H13ClF2O
